US08198453B2
To a solution of (R)-tert-butyl 3-(5-fluoro-2-methylbenzoyl)piperidine-1-carboxylate (10.5 g, 0.0336 mol) in anhydrous THF (150 mL) at −15° C. under nitrogen was added dropwise a solution of 1 M R-CBS-oxazaborolidine in toluene (3 mL, 3 mmol, 0.09 eq). After stirring for 1 hr at −15° C., a solution of 10 M BH3 in THF (17 mL, 0.0336 mol, 1 eq) was added dropwise. After addition, the reaction mixture was stirred for 2 hr at −15° C. Methanol (80 mL) was added dropwise carefully at −15° C. The solvent was removed under reduced pressure, the residue was purified by column chromatography on silica gel eluting with AcOEt/hexane (1:30→1:15) to provide the light yellow oil (95 g, HPLC≧70%, ratio≧3:1). The mixture was dissolved in a minimum volume of EtOAc, the solvent was removed on the rotary evaporator until crystals appeared. The solution was cooled to rt and stood for 1-2 h. To the solution was added hexane and then filtered, the crystals were washed with cool hexane and re-crystallized an additional two times to afford the pure isomer (R)-tert-butyl 3-((R)-(5-fluoro-2-methylphenyl)(hydroxy)methyl)piperidine-1-carboxylate (3.2 g, ee≧99%). 1H NMR (CDCl3) δ 7.1 (m, 2H), 6.85 (m, 1H), 4.7 (m, 1H), 2.3 (s, 3H), 1.45 (s, 9H), 1.25 (m, 4H).

reactant | (R)-tert-butyl 3-(5-fluoro-2-methylbenzoyl)piperidine-1-carboxylate | 0.0336 mol, 10.5 g | FC=1C=CC(=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C1)C | C18H24FNO3
reactant | toluene | 3 mmol, 3 mL, 0.09 eq | C1(=CC=CC=C1)C | C7H8
reactant | Methanol | 80 mL | CO | CH4O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 0.0336 mol, 17 mL, 1 eq | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((R)-(5-fluoro-2-methylphenyl)(hydroxy)methyl)piperidine-1-carboxylate | 3.2 g | FC=1C=CC(=C(C1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O)C | C18H26FNO3
